US06730754B2
(a) Synthesis of 2-Methoxy-5,6-dihydroindeno[2,1-b]indole
8.21 g of 2-indanone (Aldrich, 98%, Mw=132.16, 60.88 mmol), 40 mL of isopropanol, 10.84 g of p-methoxyphenylhydrazin hydrochloride (Aldrich, 98%, Mw=174.63, 60.83 mmol) were charged at room temperature in a 250 mL flask equipped with magnetic stirrer. The slurry was brought to reflux (82° C.), (a black slurry was obtained), and kept at reflux for 1 hour. The dark brown viscous suspension was then cooled to room temperature; 200 mL of water saturated with NaHCO3 were added into the reactor (final pH ca. 7.5-8), the resulting mixture was filtered and the residue washed with plenty of water. The dark green solid on the filter was dried in vacuo at 70° C. for 4 hours (14 g, 98.9% pure by GC, 96.7% yield of pure product).

reactant | 2-indanone | 60.88 mmol, 8.21 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | isopropanol | 40 mL | C(C)(C)O | C3H8O
reactant | p-methoxyphenylhydrazin hydrochloride | 60.83 mmol, 10.84 g | Cl.COC1=CC=C(C=C1)NN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 200 mL | O | H2O
product | 2-Methoxy-5,6-dihydroindeno[2,1-b]indole | 96.7% yield | COC=1C=C2C3=C(NC2=CC1)CC1=CC=CC=C13 | C16H13NO
